US07541372B2
2-(3-Fluoro-phenyl)-5-(5-methyl-3-phenyl-isoxazol-4-yl)-[1,3,4]oxadiazole
As described for example 2, 5-methyl-3-phenyl-isoxazole-4-carboxylic acid hydrazide (2.00 g, 9.21 mmol) was converted using 3-fluorobenzoic acid instead of o-toluic acid to the title compound (SiO2, heptane:ethyl acetate:dichloromethane=70:10:20 to 40:40:20, 1.75 mg, 59%) which was obtained as an off-white solid. MS: m/e=322.1 [M+H]+.

reactant | 5-methyl-3-phenyl-isoxazole-4-carboxylic acid hydrazide | 9.21 mmol, 2.00 g | CC1=C(C(=NO1)C1=CC=CC=C1)C(=O)NN | C11H11N3O2
reactant | 3-fluorobenzoic acid | FC=1C=C(C(=O)O)C=CC1 | C7H5FO2
product | 2-(3-Fluoro-phenyl)-5-(5-methyl-3-phenyl-isoxazol-4-yl)-[1,3,4]oxadiazole | 1.75 mg, 59% | FC=1C=C(C=CC1)C=1OC(=NN1)C=1C(=NOC1C)C1=CC=CC=C1 | C18H12FN3O2
